US08703953B2
To a cooled solution of (4-(4-chloro-2-fluorophenyl)pyridin-3-yl)methanol (2.89 g, 12.14 mmol) in THF (10 mL) at 0° C. was added a sodium hydride (1.94 g, 48.6 mmol) suspension in THF (10 mL) and the resultant mixture was stirred at 0° C. for 40 min. The reaction was quenched by addition of cold water (15 mL) and extracted with ethyl acetate (3×15 mL). The combined organic extracts were dried with sodium sulfate and concentrated under reduced pressure. The residue so obtained was purified by column chromatography (50% ethyl acetate in pet ether) to afford 8-chloro-5H-chromeno[3,4-c]pyridine (1.6 g, 7.35 mmol, 61% yield) as a white solid. 1H NMR (400 MHz, MeOD) δ 8.54 (d, J=5.60 Hz, 1H), 8.43 (s, 1H), 7.89 (d, J=8.40 Hz, 1H), 7.76 (d, J=5.60 Hz, 1H), 7.14 (dd, J=2.40, 8.40 Hz, 1H), 7.07 (d, J=2.00 Hz, 1H), 5.24 (s, 2H); LCMS (ESI) m/e 218 [(M±H)+, calcd for C12H9ClNO 218.0].

reactant | (4-(4-chloro-2-fluorophenyl)pyridin-3-yl)methanol | 12.14 mmol, 2.89 g | ClC1=CC(=C(C=C1)C1=C(C=NC=C1)CO)F | C12H9ClFNO
reactant | sodium hydride | 48.6 mmol, 1.94 g | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-chloro-5H-chromeno[3,4-c]pyridine | 7.35 mmol, 1.6 g, 61% yield | ClC=1C=CC2=C(C1)OCC1=CN=CC=C12 | C12H8ClNO
